US05168103
An ethanolic solution (60 mL) of [3-[[(1,1-dimethylethyloxycarbonyl)-methyl]amino]propyl]carbamic acid phenylmethyl ester (4.49 g, 13.9 mmol) under nitrogen was added to 3,4-diethoxy-3-cyclobutene-1,2-dione (2.0 mL, 13 mmol) in the same solvent (60 mL) over 1 hour. After 3.5 more hours, the reaction mixture was preadsorbed onto silica gel and purified by flash chromatography (7.5 cm diameter, gradient elution with 30 to 60% ethyl acetate in petroleum ether) to afford [3-[[(1,1-dimethylethyloxycarbonyl)methyl]-(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-propyl]carbamic acid phenylmethyl ester as a viscous colorless oil (5.26 g, 91%); MS (+CI): 447 (MH+, 100), 391 (38); 1H NMR (CDCl3, 400 MHz): δ 7.35 (m, 5H), 5.55, 4.97 (br m, NH), 5.10 (s, 2H), 4.75, 4.73 (q, J=7 Hz, 2H), 4.29, 3.99 (s, 2H), 3.74, 3.49 (t, J=6.5 Hz, 2H), 3.29-3.22 (m, 2H), 1.84-1.75 (m, 2H), 1.48, 1.47 (s, 9H), 1.45-1.40 (m, 3H).

reactant | [3-[[(1,1-dimethylethyloxycarbonyl)-methyl]amino]propyl]carbamic acid phenylmethyl ester | 13.9 mmol, 60 mL, 4.49 g | C1(=CC=CC=C1)COC(NCCCNCC(=O)OC(C)(C)C)=O | C17H26N2O4
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 13 mmol, 2.0 mL | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
product | [3-[[(1,1-dimethylethyloxycarbonyl)methyl]-(2-ethoxy-3,4-dioxo-1-cyclobuten-1-yl)amino]-propyl]carbamic acid phenylmethyl ester | 5.26 g, 91% | C1(=CC=CC=C1)COC(NCCCN(C1=C(C(C1=O)=O)OCC)CC(=O)OC(C)(C)C)=O | C23H30N2O7
